US07645776B2
N-Hydroxy-4-sulfamoyl-benzamidine
1 mmol of 4-Cyano-benzenesulfonamide are dissolved in a mixture of ethanol/water (7:3) and 5 eq of hydroxylamine hydrochloride and 2.5 eq. Na2CO3 added. The suspension is heated to 80° C. for 2 h. After evaporation of the solvent mixture the resulting material is extracted from ethylacetate/water. The product was not further characterized.

reactant | 4-Cyano-benzenesulfonamide | 1 mmol | C(#N)C1=CC=C(C=C1)S(=O)(=O)N | C7H6N2O2S
reactant | hydroxylamine hydrochloride | 5 eq | Cl.NO
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | ethanol water | C(C)O.O
product | N-Hydroxy-4-sulfamoyl-benzamidine | ONC(C1=CC=C(C=C1)S(N)(=O)=O)=N | C7H9N3O3S
